US08252781B2
A solution of t-butyl 2-(2-chloropropanoyl)-2-(adamantan-2-yl)hydrazinecarboxylate (200 mg, 0.560 mmol) in dichloromethane (3 mL) was added with trifluoroacetic acid (3 mL) at room temperature, and the resultant was stirred at the same temperature for 1 hour. The reaction solution was concentrated, and the obtained residue was purified using silica gel chromatography (hexane:ethyl acetate=1:1), 2-(adamantan-2-yl)-4-methyl-1,2-diazetidin-3-one (66.3 mg, 53.7%) was obtained as a colorless oil.

reactant | t-butyl 2-(2-chloropropanoyl)-2-(adamantan-2-yl)hydrazinecarboxylate | 0.560 mmol, 200 mg | ClC(C(=O)N(NC(=O)OC(C)(C)C)C1C2CC3CC(CC1C3)C2)C | C18H29ClN2O3
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(adamantan-2-yl)-4-methyl-1,2-diazetidin-3-one | 66.3 mg, 53.7% | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)C | C13H20N2O
